US04062862
To 6.3 g of p-phenoxyallylbenzene was added 45 ml of chloroform solution containing perbenzoic acid prepared from 11 g of benzoylperoxide, and the resulting mixture was allowed to stand at about 5° C for 5 days. The thus obtained solution was washed with 10% sodium hydroxide solution, Mohr's salt solution, then water, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue. This was chromatographed over a silica gel, and eluted with chloroform, and there was obtained 2.7 g (yield 40%) of p-phenoxyallylbenzene oxide as an oily substance.

reactant | p-phenoxyallylbenzene | 6.3 g | O(C1=CC=CC=C1)C=CCC1=CC=CC=C1 | C15H14O
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoylperoxide | 11 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
product | p-phenoxyallylbenzene oxide | 2.7 g, yield 40% | O(C1=CC=CC=C1)C=CCC1=CC2C(C=C1)O2 | C15H14O2
